US07393867B2
Method 2: 6-(3-Fluorophenylsulfanyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide
Add 4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide (60 mg, 0.36 mmol) to a mixture of bis(3-fluorophenyl)disulfide, (150 mg, 0.51 mmol) and cesium carbonate (120 mg, 1 eq.) in DMF (2.5 ml), and then heat at 95° C. for 3 hrs. Follow the reaction by TLC. When complete, dilute the reaction mixture with ethyl acetate (15 ml) and wash with brine (25 ml). Dry the organic solution, concentrate to afford a crude oil and purify the oil by chromatography on silica gel (ISCO silica cartridge, 4 gm, elute with methanol 0-10% in methylene chloride) to provide the title compound (81 mg).

reactant | 4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide | 0.36 mmol, 60 mg | S1C=CC=2NC(=CC21)C(=O)N | C7H6N2OS
reactant | bis(3-fluorophenyl)disulfide | 0.51 mmol, 150 mg | FC=1C=C(C=CC1)SSC1=CC(=CC=C1)F | C12H8F2S2
reactant | cesium carbonate | 120 mg, 1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 6-(3-Fluorophenylsulfanyl)-4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide | 81 mg | FC=1C=C(C=CC1)SC=1C2=C(NC1C(=O)N)C=CS2 | C13H9FN2OS2
